US08614215B2
Intermediate 57: (2E)-3-(4-Methoxy-2-nitrophenyl)prop-2-en-1-ol
To a stirred solution of methyl (2E)-3-(4-methoxy-2-nitrophenyl)acrylate (14 g, 0.06 mol) in dry toluene (150 mL) under nitrogen is added dropwise DIBAL-H (63 mL, 0.19 mol, 3 M) at 0° C. After stirring at room temperature for 3 h, the reaction mixture is quenched with MeOH (60 mL) then 1.5 N HCl (60 mL) is added. After addition of another 100 mL of 1.5 N HCl, the product is extracted with EtOAc. The organic layer is washed with water and brine then dried over Na2SO4. The solvent is removed under reduced pressure to afford 10 g (81%) of the title compound as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 7.52-7.54 (m, 1H), 7.43 (s, 1H), 7.11-7.14 (m, 1H), 7.0-7.04 (m, 1H), 6.22-6.29 (m, 1H), 4.35-4.37 (m, 2H), 3.88 (s, 3H).

reactant | methyl (2E)-3-(4-methoxy-2-nitrophenyl)acrylate | 0.06 mol, 14 g | COC1=CC(=C(C=C1)/C=C/C(=O)OC)[N+](=O)[O-] | C11H11NO5
reactant | DIBAL-H | 0.19 mol, 3 M, 63 mL | CC(C)C[AlH]CC(C)C
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | (2E)-3-(4-Methoxy-2-nitrophenyl)prop-2-en-1-ol | 10 g, 81% | COC1=CC(=C(C=C1)/C=C/CO)[N+](=O)[O-] | C10H11NO4
